US04077982
A solution of cis-5-hydroxy-2-phenyl-1,3-dioxane in 300 ml of benzene was treated with 4.45 g of 54% sodium hydride and the mixture stirred at ambient temperature until gas evolution ceased. To this mixture was added a solution of 2-chloromethylpyridine (obtained by extracting with benzene a carefully neutralized solution of 18.04 g of 2-chloromethylpyridine hydrochloride in 50 ml of water, then drying the benzene extracts) and the mixture was heated under reflux for 19 hours. The mixture was filtered and the filtrate washed with water and dried over sodium sulfate. Removal of the benzene under reduced pressure gave yellow solid which on recrystallization from benzene-petroleum ether (65°-110°) gave 14.2 g of cis-2-phenyl-5-(2-pyridyl)methoxy-1,3 -dioxane, m.p. 95°-98°. The nmr spectrum was consistent with the assigned structure and indicated pure cis isomer.

reactant | cis-5-hydroxy-2-phenyl-1,3-dioxane | O[C@@H]1CO[C@@H](OC1)C1=CC=CC=C1 | C10H12O3
reactant | sodium hydride | 4.45 g | [H-].[Na+]
reactant | 2-chloromethylpyridine | ClCC1=NC=CC=C1 | C6H6ClN
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | cis-2-phenyl-5-(2-pyridyl)methoxy-1,3 -dioxane | 14.2 g | C1(=CC=CC=C1)[C@@H]1OC[C@@H](CO1)OCC1=NC=CC=C1 | C16H17NO3
